US06080743
1-(7-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-3-(2-ethoxycarbonylethyl)-urea;
1-(7-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-3-(4-trifluoromethyloxyphenyl)-urea, FAB-MS: M+ =439; TLC: ethyl acetate/methanol (3:1) Rf =0.50.

reactant | 1-(7-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-3-(4-trifluoromethyloxyphenyl)-urea | [N+](=O)([O-])C1=CC(=C2NC(C(NC2=C1)=O)=O)CNC(=O)NC1=CC=C(C=C1)OC(F)(F)F | C17H12F3N5O6
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
product | 1-(7-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-3-(2-ethoxycarbonylethyl)-urea | [N+](=O)([O-])C1=CC(=C2NC(C(NC2=C1)=O)=O)CNC(=O)NCCC(=O)OCC | C15H17N5O7
